US08258134B2
A solution of N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-3-(tetrahydro-pyran-4-yl)-propionamide (540.6 mg, 0.89 mmol) in ethanol (4.5 mL) at 25° C. was treated with concentrated aqueous hydrochloric acid (9 drops). The reaction was stirred at 25° C. overnight. After this time, the reaction was diluted with ethyl acetate (150 mL) and was washed with a saturated aqueous sodium bicarbonate solution (2×100 mL), water (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL). The organics were dried over magnesium sulfate, filtered, rinsed and then concentrated in vacuo. Silica gel column chromatography (AnaLogix 80 g, 1-10% methanol/methylene chloride) afforded 2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-3-(tetrahydro-pyran-4-yl)-propionamide (298 mg, 68%) as a white solid; ES+-HRMS m/e calcd for C23H25N5O5F2 [M+H+] 490.1897 found 490.1895. 1H-NMR (400 MHz, DMSO-d6) δ ppm 1.12-1.34 (m, 2H) 1.34-1.46 (m, 1H) 1.46-1.59 (m, 2H) 1.90 (ddd, J=13.6, 9.0, 4.3 Hz, 1H) 2.12-2.28 (m, 1H) 3.08-3.29 (m, 2H) 3.69 (q, J=5.5 Hz, 2H) 3.74-3.89 (m, 2H) 4.02 (t, J=5.5 Hz, 2H) 4.86 (t, J=5.5 Hz, 1H) 5.54 (dd, J=11.0, 4.3 Hz, 1H) 6.04 (d, J=2.7 Hz, 1H) 6.36 (d, J=2.1 Hz, 1H) 7.32-7.43 (m, 2H) 7.43-7.53 (m, 1H) 7.56 (d, J=2.1 Hz, 1H) 8.29 (d, J=2.7 Hz, 1H) 10.84 (s, 1H).

reactant | N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-3-(tetrahydro-pyran-4-yl)-propionamide | 0.89 mmol, 540.6 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC(C(CC1CCOCC1)N1N=CC(=CC1=O)OC1=C(C=CC=C1F)F)=O)(C)C | C29H39F2N5O5Si
solvent | ethanol | 4.5 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 9 drops | Cl | ClH
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-3-(tetrahydro-pyran-4-yl)-propionamide | 298 mg, 68% | FC1=C(OC=2C=NN(C(C2)=O)C(C(=O)NC2=NN(C=C2)CCO)CC2CCOCC2)C(=CC=C1)F | C23H25F2N5O5
